US07727988B2
5-(2-fluoro-3-pyridinyl)-1-(4-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}butyl)-2,4(1H,3H)-pyrimidinedione dihydrochloride (E69)
5-(2-fluoro-3-pyridinyl)-1-(4-{(1S)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}butyl)-2,4(1H,3H)-pyrimidinedione was treated with 4N HCl in dioxane (2 eq). After evaporation of the solvent and trituration with diethyl ether, 41 mg of the title compound were obtained as a white powder. (89% yield)

reactant | 5-(2-fluoro-3-pyridinyl)-1-(4-{(1S)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}butyl)-2,4(1H,3H)-pyrimidinedione | FC1=NC=CC=C1C=1C(NC(N(C1)CCCCN1C[C@]2(CC2C1)C1=CC=C(C=C1)C(F)(F)F)=O)=O | C25H24F4N4O2
reactant | HCl | 4N | Cl | ClH
reactant | dioxane | 2 eq | O1CCOCC1 | C4H8O2
product | 5-(2-fluoro-3-pyridinyl)-1-(4-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}butyl)-2,4(1H,3H)-pyrimidinedione dihydrochloride | 41 mg, 89% yield | Cl.Cl.FC1=NC=CC=C1C=1C(NC(N(C1)CCCCN1C[C@]2(C[C@H]2C1)C1=CC=C(C=C1)C(F)(F)F)=O)=O | InChI=1S/C25H24F4N4O2.2ClH/c26-21-19(4-3-9-30-21)20-14-33(23(35)31-22(20)34)11-2-1-10-32-13-18-12-24(18,15-32)16-5-7-17(8-6-16)25(27,28)29;;/h3-9,14,18H,1-2,10-13,15H2,(H,31,34,35);2*1H/t18-,24+;;/m0../s1
